US06844456B2
Preparation of (17β)-2-(1-Adamantyl)-estra-1,3,5(10)-triene-3,17-diol
2-(1-Adamantyl)-3-hydroxyestra-1,3,5(10)-trien-17-one (250 mg, 0.62 mmol) was added to cold ethanol (25 mL) and methanol (10 mL) to give a turbid solution. Sodium borohydride (NaBH4, 140 mg) was added in one portion and the reaction was continued with stirring for 2 hours. Solvents were removed on a rotary evaporator and crushed ice was added. On standing overnight, the initially formed oil became a solid. The solid was filtered and washed with water until the filtrate was pH neutral. The solid was dried in a vacuum oven at 50° C. to give the crude product (0.25 g), which was purified by flash chromatography (silica gel eluted with 18% ethyl acetate in hexanes). The pure product (200 mg, 79.6%) was recrystallized from chloroform and hexanes to obtain crystals (150 mg), and was then characterized as follows: (i) melting point=174-175° C.; (ii) 1H NMR (CDCl3, 300 MHZ) δ0.81 (s, 3H, C18—CH3), 2.76 (m, 2H, C6—CH2), 3.73 (t, 1H, C17—H), 4.78 (s, 1H, C3—OH), 6.38 (s, 1H, C4—H), 7.16 (s, 1H, C1—H); (iii) 13C NMR (CDCl3, 300 MHZ) δ10.95, 23.02, 26.33, 27.12, 28.77, 28.98 (3×C), 30.49, 36.54, 36.71, 37.01 (3×C), 38.89, 40.68 (3×C), 43.20, 44.22, 49.96, 81.99, 116.84, 124.06, 132.06, 133.83, 135.20, 152.36.

reactant | 2-(1-Adamantyl)-3-hydroxyestra-1,3,5(10)-trien-17-one | 0.62 mmol, 250 mg | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC=3CC[C@H]1[C@@H]4CCC([C@@]4(C)CC[C@@H]1C3C2)=O)O | C28H36O2
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | Sodium borohydride | 140 mg | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | (17β)-2-(1-Adamantyl)-estra-1,3,5(10)-triene-3,17-diol | 150 mg | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC=3CC[C@H]1[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]1C3C2)O)O | C28H38O2
